US08076324B2
c) 1-(2-Methylsulfanylphenyl)-4-oxocyclohexanecarbonitrile
3.05 g of (2-methylsulfanylphenyl)acetonitrile were added dropwise to a mixture of 3.3 ml of 30% strength sodium methylate solution in MOH and 10 ml of dry THF and stirred for 1 h at 20° C. 1.69 ml of methyl acrylate were then added at 20° C. and the reaction mixture was heated for 4 h under reflux. After cooling, the reaction mixture was poured onto cold 2 N hydrochloric acid and extracted three times with 100 ml each of DCM. The combined organic phases were washed with 100 ml of water and 100 ml of sodium chloride solution, dried with magnesium sulfate and concentrated in vacuo. The residue (4.7 g) was dissolved in 10 ml of dimethyl sulfoxide, 1.5 g of sodium chloride were added and the mixture was heated for 5 h at 180° C. After cooling, 150 ml of EA were added and the mixture was washed three times with 100 ml each of water. The organic phase was dried with magnesium sulfate and concentrated in vacuo. The residue was purified by preparative HPLC (acetonitrile/water). 1.2 g of the title compound were obtained.

reactant | (2-methylsulfanylphenyl)acetonitrile | 3.05 g | CSC1=C(C=CC=C1)CC#N | C9H9NS
reactant | sodium methylate | C[O-].[Na+]
reactant | methyl acrylate | 1.69 ml | C(C=C)(=O)OC | C4H6O2
reactant | hydrochloric acid | 2 N | Cl | ClH
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-(2-Methylsulfanylphenyl)-4-oxocyclohexanecarbonitrile | 1.2 g | CSC1=C(C=CC=C1)C1(CCC(CC1)=O)C#N | C14H15NOS
